US07531537B2
t-Butyl(4-amino-2-cyanophenoxy)acetate (430 mg) obtained in Reference Example 50(1) is dissolved in tetrahydrofuran (10 ml), is added saturated sodium hydrogen carbonate solution (10 ml), and then is added benzyl chloroformate (355 mg) under ice-cooling. Under ice-cooling, the reaction solution is stirred for 1 hour and extracted with ethyl acetate. The organic layer is washed with saturated brine, dried over sodium sulfate, evaporated to remove the solvent under reduced pressure. The resulting residue is purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1 followed by 3/1) to give t-butyl(4-benzyloxycarbonylamino-2-cyanophenoxy)acetate (540 mg).

reactant | t-Butyl(4-amino-2-cyanophenoxy)acetate | 430 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1)N)C#N)=O | C13H16N2O3
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 355 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | t-butyl(4-benzyloxycarbonylamino-2-cyanophenoxy)acetate | 540 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)C#N)=O | C21H22N2O5
